US08003662B2
Step B: Preparation of N-(4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane -1,1-dicarboxamide:
Prepared from N-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl) -N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (500 mg, 0.845 mmol) and N, N-diethylprop-2-yn-1-amine (118 mg, 1.06 mmol) according to the procedure described for Example 6, Step B, except the reaction was heated at 50° C. for 1 hour. The crude was purified by two successive Biotage 40M silica gel columns eluting with 5% MeOH in EtOAc, and then on a second column with 5% MeOH (containing 7N NH3) in CHCl3. Yield: 115 mg (24%). 1H NMR (400 MHz, CDCl3) δ 10.15 (s, 1H), 8.47 (m, 2H), 7.77 (m, 1H), 7.55 (s, 1H), 7.45 (m, 2H), 7.20 (m, 2H), 7.05 (m, 2H), 6.50 (d, J=5 Hz, 1H), 3.71 (s, 2H), 2.65 (m, 4H), 1.78 (m, 2H), 1.62 (m, 2H), 1.13 (m, 6H). LRMS (APCI pos) m/e 575 (M+1). HPLC: 99% purity (220 nm).

reactant | N-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl) -N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 0.845 mmol, 500 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C24H16F2IN3O3S
reactant | N, N-diethylprop-2-yn-1-amine | 1.06 mmol, 118 mg | C(C)N(CC#C)CC | C7H13N
product | N-(4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane -1,1-dicarboxamide | C(C)N(CC#CC1=CC2=NC=CC(=C2S1)OC1=C(C=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F)F)CC | C31H28F2N4O3S
